US06964966B2
Step-2: 1-Benzyl-3-methyl-4-piperidone:
Ethyl-1-benzyl-3-methyl-4-oxo-piperidine-3-carboxylate (85 g, 0.31 mol) was dissolved in conc HCl (82 ml, 0.77 mol) and the reaction mixture was heated to 100° C. for 32 hrs. Solvent was removed under reduced pressure and the resulting solid was dissolved in the 300 ml CHCl3 and 400 ml pet ether was added to this under stirring to provide a solid. The solid was filter and was dissolved in 400 ml ethyl acetate and organic layer was washed with 10% NaOH aqueous solution. Layers were separated and concentration of organic layer afforded 48 g (75%) oil as a titled product.

reactant | Ethyl-1-benzyl-3-methyl-4-oxo-piperidine-3-carboxylate | 0.31 mol, 85 g | C(C)OC(=O)C1(CN(CCC1=O)CC1=CC=CC=C1)C | C16H21NO3
reactant | HCl | 0.77 mol, 82 ml | Cl | ClH
product | 1-Benzyl-3-methyl-4-piperidone | 48 g, 75% | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
